Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.93145792849
[O:1].[O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],-2.74987277456
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],1.93822889466
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[O:15][H:16],4.206878799059997
[H:1][C:2]([C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]1=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],-0.413736431769
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:11][H:12],5.3517250723
[O:1]=[C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9],3.89287676476
[H:1][C:2]([H:3])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.55789469879
[H:1][C:2]([O:3][C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.58928378937
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[O:6][O:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13],0.13220071123
[C:5][O:6][H:7].[O:1]=[C:2]=[C:3]([H:4])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C@:3]([H:4])([C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],-0.97558523862
[H:7].[O:1]=[C:2]=[C:3][O:4][C:5][H:6]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7],-5.17872633168
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4][O:5][C:6][H:7]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-3.98287591932
[H:10].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],-3.17206958074
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3][C:4](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5],1.7955325323400002
[C:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.70021858809
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2],7.176512435989999
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][H:3].[C:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],3.1648889005400003
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13],-4.88217128421
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.1740154798400004
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.96632353513
[H:1][O:2][C@:3]1([H:4])[C:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],0.0332815661104
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:8]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.23766983912
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12],5.15356024249
[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([C:5]#[C:7][H:8])=[C:9]([H:10])[H:11].[H:6],1.9790915708400003
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7](=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.57063210808
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[C:7]([H:8])=[C:9]([H:10])[O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],3.89077597768
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[H:11],-2.92093682863
